US06451814B1
Step C 4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-(2,3-dimethoxybenzyl)-1-piperidinecarboxamide
4-[4-(2-Aminoethyl)anilino]-N-(2,3-dimethoxybenzyl)-1-piperidine-carboxamide formate (0.30 g, 0.64 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.238 g, 0.588 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.163 g, 0.20 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-(2,3-dimethoxybenzyl)-1-piperidine-carboxamide formate | 0.64 mmol, 0.30 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCC2=C(C(=CC=C2)OC)OC)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.588 mmol, 0.238 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-(2,3-dimethoxybenzyl)-1-piperidinecarboxamide | 0.20 mmol, 0.163 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NCC3=C(C(=CC=C3)OC)OC)C=C2)O)C=C1 | C48H60N4O6Si
